US04277470
(b) 3-Phenyl-spiro[bicyclo[2.2.1]-hept-5-ene-2,2'-pyrrolidine]-5'-thione
20 mmoles of 3-phenyl-spiro[bicyclo[2.2.1]-hept-5-ene-2,2'-pyrrolidin]-5'-one, 4 g of phosphorus pentasulfide and 3 g of calcium oxide are stirred at 50°C. for 2 hours and the mixture is filtered hot into a saturated sodium carbonate solution. The residue is substantially disintegrated with concentrated hydrochloric acid, the mixture is diluted with water and the solutions are combined. The mixture is extracted several times by shaking with toluene and the organic phases are separated off, dried and evaporated in vacuo. Recrystallization of the residue from ethyl acetate gives colorless crystals of melting point 204° C. (decomposition).

reactant | 3-phenyl-spiro[bicyclo[2.2.1]-hept-5-ene-2,2'-pyrrolidin]-5'-one | 20 mmoles | C1(=CC=CC=C1)C1C2C=CC(C2)C12NC(CC2)=O | C16H17NO
reactant | phosphorus pentasulfide | 4 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | calcium oxide | 3 g | [O-2].[Ca+2]
product | 3-Phenyl-spiro[bicyclo[2.2.1]-hept-5-ene-2,2'-pyrrolidine]-5'-thione | C1(=CC=CC=C1)C1C2C=CC(C2)C12NC(CC2)=S | C16H17NS
